US06544985B2
A solution of 3-(2-methyl-oxazol-4-yl)-benzoic acid (1.42 g) in a mixture of MeOH (30 mL) and 4NHCl/Et2O (6 mL) was heated to 40° C. for 4 h. The solution was evaporated in vacuum and the residual oil was stirred with H2O (30 mL), the pH of the mixture being set to about 6 by the addition of sat. NaHCO3 solution. The precipitate was isolated by filtration to give 3-(2-methyl-oxazol-4-yl)-benzoic acid methyl ester (1.18 g) as light-brown solid,

reactant | 3-(2-methyl-oxazol-4-yl)-benzoic acid | 1.42 g | CC=1OC=C(N1)C=1C=C(C(=O)O)C=CC1 | C11H9NO3
reactant | Et2O | 6 mL | CCOCC | C4H10O
solvent | MeOH | 30 mL | CO | CH4O
product | 3-(2-methyl-oxazol-4-yl)-benzoic acid methyl ester | 1.18 g | COC(C1=CC(=CC=C1)C=1N=C(OC1)C)=O | C12H11NO3
